US06306895B1
25% HCl was added dropwise to benzenesulfinic acid sodium salt (2.0 g), till the solid dissolved. This mixture was extracted with ethyl acetate (30 ml), dried (Na2SO4) and concentrated to give benzenesulfinic acid (1.5 g). To an ice-cooled mixture of benzenesulfinic acid (1.48 g, 10.5 mmol) and calcium chloride (1.15 g, 10.5 mmol) in dry CH2Cl2 a solution of (2RS, 6S)-6-(4-fluorophenoxymethyl)-2-methoxytetrahydropyran (0.5 g, 2.1 mmol) in dry CH2Cl2 (5 ml) was added. The reaction mixture was stirred for 4 h, filtered through celite and washed with CH2Cl2. The combined organic layer was washed with saturated aqueous Na2CO3, water, brine and dried (Na2SO4). The solvent was removed under vacuum and the residue was purified on a silica gel column using light petroleum-ethyl acetate (4:1) as eluent to afford pure (2RS, 6S)-6-benzenesulfonyl-2-(4-fluorophenoxymethyl)-tetrahydropyran (0.5 g, 70%) as a viscous liquid. TLC:ethyl acetate-light petroleum (1:3), Rf=0.4. 1H NMR (CDCl3, 200 MHz): δ 1.5 (m, 2H), 1.75-2.0 (m, 2H), 2.2-2.4 (m, 1H), 2.6-2.8 (m, 1H), 3.75-3.9 (m, 2H), 4.65 (d, 1H), 4.85-5.0 (m, 1H), 6.7-7.0 (m, 4H), 7.5-7.7 (m, 3H), 7.95 (d, J=5.4 Hz, 2H).

reactant | benzenesulfinic acid | 10.5 mmol, 1.48 g | C1(=CC=CC=C1)S(=O)O | C6H6O2S
reactant | calcium chloride | 10.5 mmol, 1.15 g | [Cl-].[Ca+2].[Cl-]
reactant | (2RS, 6S)-6-(4-fluorophenoxymethyl)-2-methoxytetrahydropyran | 2.1 mmol, 0.5 g | FC1=CC=C(OC[C@@H]2CCCC(O2)OC)C=C1 | C13H17FO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | (2RS, 6S)-6-benzenesulfonyl-2-(4-fluorophenoxymethyl)-tetrahydropyran | 0.5 g, 70% | C1(=CC=CC=C1)S(=O)(=O)[C@H]1CCCC(O1)COC1=CC=C(C=C1)F | C18H19FO4S
